US07595327B2
(4R)-Methyl 3-methyl-4-((R)-1-phenylethylamino)-tetrahydro-2H-pyran-3-carboxylate (1.37 g, 4.94 mmol) in methanol (70 mL) was treated with 10% palladium hydroxide on carbon (0.42 g, 3.5% mol) and aqueous 1N HCl (7 mL, 1.4 eq) and stirred under a hydrogen balloon for 72 h. The catalyst was removed by filtration. Removal of solvent provided crude methyl 4-amino-3-methyl-tetrahydro-2H-pyran-3-carboxylate hydrochloride that was used in the next step without further purification. MS: (M+H)+=174.1.

reactant | (4R)-Methyl 3-methyl-4-((R)-1-phenylethylamino)-tetrahydro-2H-pyran-3-carboxylate | 4.94 mmol, 1.37 g | CC1(COCC[C@H]1N[C@H](C)C1=CC=CC=C1)C(=O)OC | C16H23NO3
reactant | HCl | 1N, 7 mL, 1.4 eq | Cl | ClH
solvent | methanol | 70 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.42 g | [OH-].[OH-].[Pd+2]
product | methyl 4-amino-3-methyl-tetrahydro-2H-pyran-3-carboxylate hydrochloride | Cl.NC1C(COCC1)(C(=O)OC)C | InChI=1S/C8H15NO3.ClH/c1-8(7(10)11-2)5-12-4-3-6(8)9;/h6H,3-5,9H2,1-2H3;1H
